US09062044B2
(1R,6S) Biphenyl-2-yl-[3-(4,6-dimethyl-pyrimidin-2-yl)-3,8-diaza-bicyclo[4.2.0]oct-8-yl]-methanone
The title compound was prepared in a manner analogous to Example 1, substituting (1R,6S) biphenyl-2-yl-(3,8-diaza-bicyclo[4.2.0]oct-8-yl)-methanone for biphenyl-2-yl-(3,8-diaza-bicyclo[4.2.0]oct-8-yl)-methanone and 2-chloro-4,6-dimethyl-pyrimidine for 2-chloro quinoxaline. MS (ESI) mass calcd. for C25H26N4O, 398.50; m/z found 399.2 [M+H]+. 1H NMR (CDCl3): 7.54-7.31 (m, 7H), 7.25-7.11 (m, 2H), 6.33-6.23 (m 1H), 4.64-4.36 (0.5H), 4.00-3.39 (m, 5H), 3.25-2.85 (m, 1.25H), 2.60-2.37 (m, 1.25H), 2.33 (s, 3H), 2.25 (s, 3H), 2.00-1.37 (m, 2H).

reactant | biphenyl-2-yl-(3,8-diaza-bicyclo[4.2.0]oct-8-yl)-methanone | C1(=C(C=CC=C1)C(=O)N1CC2CCNCC12)C1=CC=CC=C1 | C19H20N2O
reactant | 2-chloro-4,6-dimethyl-pyrimidine | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | 2-chloro quinoxaline | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
product | (1R,6S) Biphenyl-2-yl-[3-(4,6-dimethyl-pyrimidin-2-yl)-3,8-diaza-bicyclo[4.2.0]oct-8-yl]-methanone | C1(=C(C=CC=C1)C(=O)N1C[C@@H]2CCN(C[C@H]12)C1=NC(=CC(=N1)C)C)C1=CC=CC=C1 | C25H26N4O
